US04710573
1-(4-Chlorobenzoyl)-3-(1-ethyl-4-piperidinyl)-6-fluoro-1H-indazole hydrochloride
A mixture of 3.0 g of 3-(1-ethyl-4-piperidinyl)-6-fluoro-1H-indazole and 8 ml of 4-chlorobenzoyl chloride was heated at 100° C. in a steam bath for 4 hrs. Ether was added and the solid was collected. The solid was recrystallized twice from ethanol-ether to yield 2.9 g (57%) of product, mp 240°-242° C.

reactant | 3-(1-ethyl-4-piperidinyl)-6-fluoro-1H-indazole | 3.0 g | C(C)N1CCC(CC1)C1=NNC2=CC(=CC=C12)F | C14H18FN3
reactant | 4-chlorobenzoyl chloride | 8 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | Ether | CCOCC | C4H10O
product | 1-(4-Chlorobenzoyl)-3-(1-ethyl-4-piperidinyl)-6-fluoro-1H-indazole hydrochloride | 2.9 g, 57% | Cl.ClC1=CC=C(C(=O)N2N=C(C3=CC=C(C=C23)F)C2CCN(CC2)CC)C=C1 | InChI=1S/C21H21ClFN3O.ClH/c1-2-25-11-9-14(10-12-25)20-18-8-7-17(23)13-19(18)26(24-20)21(27)15-3-5-16(22)6-4-15;/h3-8,13-14H,2,9-12H2,1H3;1H
